Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Worsening numbness
 
Major Surgical or Invasive Procedure:
Central line placement for plasmapheresis

 
History of Present Illness:
Ms. ___ is an obese right-handed ___ ___
year-old woman w/ PMH of severe idiopathic axonal sensorimotor
polyneuropathy previously responsive to plasmapheresis, HTN,
DMII, HLD, and depression p/w with worsening numbness and
weakness secondary to her chronic axonal polyneuropathy, 
admitted
for elective plasmapheresis.
.
Patient has baseline chronic numbness distally that has 
gradually
moved proximally from ankles to midshin bilaterally. At 
baseline,
she is in a wheelchair and lives in assisted living facility in
___, where she requires assistance for showering and
dressing but is able to transfer herself and eat independently.
She has urinary incontinence and requires For the past two
months, she has had increased numbness in her hands and feet. 
She
has noticed these symptoms in that her feet seem to "buckle" 
more
at the ankles, and she has less sensation in her feet and 
ankles.
In her hands, she has been having decreased sensation as well:
has been dropping things more and having difficulty with
activities like picking knife up off the table to eat and using
her hands to get her Pullups on. As she has had similar symptoms
in the past which responded well to plasmapheresis, she is being
admitted today for scheduled plasmapheresis at the request of 
her
primary neurologist Dr. ___. 
.
The patient first noticed the onset of neurological symptoms as  

early as ___. As a result of difficulty walking and severe knee 


pain, she underwent bilateral knee replacements over the course  

of the subsequent ___ years (___). Despite the  
operations, she required the assistance of a cane to ambulate  
secondary to lower extremity weakness. After falling while  
performing transfers, the patient ultimately became wheelchair  
bound by approximately ___. By ___, the weakness extended from 


the lower extremities into the trunk and upper extremities.
Exacerbations in numbness and weakness have been successfully
treated with plasma exchange in the past. She typically notes
improvement ___ months after treatment. Per prior records, she
has received 4 plasma exchange treatments most recently in ___ and ___.  
She was admitted for similar symptoms in ___ with numbness in
her distal hands and feet as well as urge incontinence, which
improved gradually with plasmapheresis. 
.
Of note, patient has had complications with plasmapheresis in 
the
past including coronary vasospasm, bradycardia and central line
infection. Her most recent plasmapheresis session in ___ was
complicated only by transient nausea and emesis. 
.
On neurologic review of symptoms, patient endorses mildly 
blurred
vision which has been present for the past month. She also
endorses chronic frontal tension headache for which she does not
take medications. Endorses chronic dizziness and vertigo which
are exacerbated by going from lying to standing and improved by
lying still. 
.
On general review of systems, patient endorses occasional brief
episodes of chest pain at rest (of note, was ruled out for
chronic CHF in ___. Also endorses urinary urgency and burning
during urination which she believes may indicate that she has a
UTI. She also endorses generally poor energy level overall for
the past several months. 
 
Past Medical History:
PAST MEDICAL HISTORY:  
- Severe idiopathic axonal sensorimotor polyneuropathy  
* initial sx in ___ (weakness and sensory loss in legs -->  
abdomen --> arms)  
* responsive to plasmapheresis (last sessions ___  

* prior evaluation (per Dr. ___ dated ___:  
- Sural nerve biopsy: marked loss of large and small myelinated  

axons  
- Vitamin B12 deficiency  
- HTN  
- DM (type II)  
- GERD  
- Depression  
- Diverticulosis  
.  
PAST SURGICAL HISTORY:  
- c-section x 2  
- hysterectomy for leiomyomata  
- left breast lumpectomy  
- bilateral knee replacements  
- portacath (since removed)  
- surgery related to recent abdominal hematoma related to sc  
heparin  
 
Social History:
___
Family History:
FAMILY HISTORY:
- negative for neurological conditions
- positive for DM (mother, brother), malignancy (mother - liver, 
cervical, colon; father - lung), CAD (mother)

 
Physical Exam:
PHYSICAL EXAM: 
-Vitals: 98.1 115/74 69 18 99% RA
-General: obese older woman lying supine in bed, talking
comfortably with examiner.  
-HEENT: Normocephalic, atraumatic, no scleral icterus noted.
Mucus  
membranes moist, no lesions noted in oropharynx  
Neck: Supple. No carotid bruits appreciated.  
Cardiac: Regular rate, normal S1 and S2.  
Pulmonary: Lungs clear to auscultation bilaterally anteriorly.  
Abdomen: Obese. Normoactive bowel sounds. Soft. Non-tender,  
non-distended.  
Extremities: No evidence of cyanosis or edema.  
Skin: no rashes or concerning lesions noted.  
.  
-Neurological:  

Mental status:  She is awake, alert, and oriented x3.  She is
capable of telling a coherent history. For memory, registration
and recall are ___ at 0 and 5 minutes. Normal prosody. No
dysarthria or paraphasic errors. 

Cranial nerves:  Her acuity is normal.  Her pupils are equal and
reactive to light. Extraocular movements are intact.  Her face 
is
strong and there is no dysarthria. She has no ptosis or
fatigability.  Her hearing is intact. Tongue protrusion is
strong.  

Motor examination:  There is decreased bulk in the small muscles
of the hands and feet. Her neck flexors and extensors are ___.  

   D  B  T  WF WE FE ADM APB IP Q  HS DF
L  ___   4-  ___- 5  5
R  ___-  4-  ___- 5  5

Reflexes: Absent throughout. Toes are downgoing bilaterally.

Sensation: Decreased pinprick and light touch sensation in both
distal lower extremities, L>R. Also decreased pinprick and light
touch in left upper extremity. No vibratory sense in ankles or
knees. Poor proprioception, particularly on left hand compared 
to
right. 

Gait: not tested
 
Pertinent Results:
ADMISSION LABS:

___ 04:30AM BLOOD WBC-4.7 RBC-4.48 Hgb-13.4 Hct-40.8 MCV-91 
MCH-29.9 MCHC-32.9 RDW-13.7 Plt ___
___ 01:20AM BLOOD Neuts-87.2* Lymphs-9.3* Monos-2.7 Eos-0.5 
Baso-0.3
___ 04:30AM BLOOD ___ PTT-30.6 ___
___ 04:30AM BLOOD Glucose-86 UreaN-16 Creat-1.0 Na-143 
K-4.4 Cl-104 HCO3-31 AnGap-12
___ 04:30AM BLOOD Calcium-9.4 Phos-5.1* Mg-2.0

PERIPHERAL NEUROPATHY WORKUP: 
- VitB12-1064*
- %HbA1c-5.4 eAG-108
- Methylmalonic acid: 192 
- SPEP: no specific abnormalities
- UPEP: no protein 

MICROBIOLOGY: 

URINE CULTURE (___): 

   ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R
 
Brief Hospital Course:
___ woman with a severe, idiopathic large-fiber 
polyneuropathy or sensory neuronopathy, admitted for scheduled 
plasmapheresis in setting of continued progression of her 
numbness and proprioceptive sensory loss. 

# NEURO: Patient was admitted to the General Neurology service. 
Plasmapheresis line was placed without complication. She 
underwent 5 sessions of plasmapheresis. She was monitored on 
telemetry throughout given her history of coronary vasospasm 
with plasmapheresis. Her course was complicated by severe 
band-like lower abdominal pain following the first session, 
which was worked up extensively and found to be most likely 
related to transient vasospasm or fluid shifts after 
plasmapheresis, as well as an overly aggressive bowel regimen. 
Plasmapheresis was held for three days while her abdominal pain 
was treated. With vigorous hydration prior to plasmapheresis as 
well as supportive care with lorazepam for nausea, her abdominal 
pain was better controlled. She then underwent the next four 
sessions of plasmapheresis. On the evening following removal of 
her pheresis line, she spiked a fever to 102, likely related to 
transient bacteremia caused by line removal. Her line site 
appeared uninfected and infectious workup (blood cultures x2, 
urine culture, CXR) were normal. She remained afebrile for 24 
hours following this. 

On admission, patient's neuro exam was notable for atrophy in 
the small muscles of the hands and feet bilaterally, symmetric 
weakness of the extensors of the upper extremities, diffuse 
areflexia, decreased sensation to light touch and pinprick L>R, 
and severely decreased vibration and proprioception in the feet 
and lower legs bilaterally, and pseudoathetosis of both feet, 
all consistent with known diagnosis of severe sensorimotor 
polyneuropathy.  On discharge her neuro exam had improved 
slightly in that joint position sense at the ankles was mildly 
improved. Of note, it typically takes ___ weeks for patient to 
experience benefits from plasmapheresis. 

# ID: On admission, patient complained of dysuria and was found 
to have a UTI (E. coli, sensitive to everything but TMP-SMX). 
She was treated with a 5-day course of Ciprofloxacin and her 
symptoms improved. 

=====================
TRANSITIONS OF CARE: 
- Studies pending on discharge = blood cultures (___) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Magnesium Citrate 300 mL PO QMON 
2. Magnesium Citrate 300 mL PO QTHUR 
3. TraMADOL (Ultram) 50 mg PO DAILY 
4. Acetaminophen 650 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Sertraline 100 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Psyllium 1 PKT PO BID 
10. Gabapentin 100 mg PO BID 
11. BuPROPion 100 mg PO BID 
12. Docusate Sodium 100 mg PO BID 
13. Lactulose 30 mL PO TID 
14. Simvastatin 20 mg PO HS 
15. Lorazepam 0.5 mg PO Q6H:PRN anxiety 
16. Bisacodyl 10 mg PO DAILY:PRN constipation 
17. Cyanocobalamin 1000 mcg IM/SC MONTHLY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Bisacodyl 10 mg PO DAILY:PRN constipation 
4. BuPROPion 100 mg PO BID 
5. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 100 mg PO BID 
8. Lactulose 30 mL PO TID 
9. Lorazepam 0.5 mg PO Q6H:PRN anxiety 
10. Magnesium Citrate 300 mL PO QMON 
11. Magnesium Citrate 300 mL PO QTHUR 
12. Multivitamins 1 TAB PO DAILY 
13. Psyllium 1 PKT PO BID 
14. Sertraline 100 mg PO DAILY 
15. Simvastatin 20 mg PO HS 
16. TraMADOL (Ultram) 50 mg PO DAILY 
17. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Severe axonal sensorimotor polyneuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for plasmapheresis to treat 
your sensorimotor axonal polyneuropathy. You received 5 sessions 
of plasmapheresis. You had several episodes of abdominal pain 
following plasmapheresis which we believe may have been related 
to transient fluid shifts: this was helped with IV fluids. On 
the day after your last session of plasmapheresis, you had a 
fever. The cause for this was not found but was likely caused by 
removal of your plasmapheresis catheter causing brief 
introduction of bacteria to your blood. You are being discharged 
to home with physical therapy, and will follow up with your 
neurologist and primary care doctor within the next couple of 
days.  
.
Please attend the follow-up appointment listed below with Dr. 
___ to follow up on your hospitalization. 
.
We did not make any changes to your home medications. Please 
continue to take them as you were prior to hospitalization. 
 
Followup Instructions:
___